US04324894
1-Morpholinyl-3-aminoisoquinoline is reacted with ethanesulfonic acid in equimolar ratio to give 1-morpholinyl-3-aminoisoquinoline ethanesulfonate.

reactant | 1-Morpholinyl-3-aminoisoquinoline | N1(CCOCC1)C1=NC(=CC2=CC=CC=C12)N | C13H15N3O
reactant | ethanesulfonic acid | C(C)S(=O)(=O)O | C2H6O3S
product | 1-morpholinyl-3-aminoisoquinoline ethanesulfonate | C(C)S(=O)(=O)O.N1(CCOCC1)C1=NC(=CC2=CC=CC=C12)N | InChI=1S/C13H15N3O.C2H6O3S/c14-12-9-10-3-1-2-4-11(10)13(15-12)16-5-7-17-8-6-16;1-2-6(3,4)5/h1-4,9H,5-8H2,(H2,14,15);2H2,1H3,(H,3,4,5)
